US09351962B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)-4-methylthiazol-2-yl)cyclopropanecarboxamide (Isomer A), (1.47 g, 2.69 mmol) in MeOH (13 mL) was added 4 M HCl in dioxane (4 mL, 16 mmol). The reaction mixture was stirred at room temperature for 3 h and then concentrated. The crude product was dissolved in CH2Cl2 and washed with saturated aqueous NaHCO3 solution (×2) and brine, then dried over MgSO4 and concentrated. The crude product was adsorbed onto silica get and purified by column chromatography (70-100% EtOAc/hexanes) to provide N-(5-(amino(2-chlorophenyl)methyl)-4-methylthiazol-2-yl)-1-(benzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxamide (Isomer A), as an orange solid (540 mg, 45%). 1H NMR (400 MHz, DMSO-d6) δ 7.80 (d, J=7.9 Hz, 1H), 7.40-7.36 (m, 2H), 7,27 (m, 1H, 6.94 (s, 1H), 6.85 (m, 2H), 6.00 (s, 2H), 5.56 (s, 1H), 2.19 (s, 3H), 1.40 (m, 2H), 1.10 (m, 2H); HPLC ret. time 2.65 min, 10-99% CH3CN 5 min run; ESI-MS 442.5 m/z (MH+).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-((2-chlorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)-4-methylthiazol-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2SC(=C(N2)C)C(N[S@](=O)C(C)(C)C)C2=C(C=CC=C2)Cl | C26H28ClN3O4S2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 16 mmol, 4 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 13 mL | CO | CH4O
product | N-(5-(amino(2-chlorophenyl)methyl)-4-methylthiazol-2-yl)-1-(benzo[d][1,3]dioxol-5-yl)-cyclopropanecarboxamide | NC(C1=C(N=C(S1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C)C1=C(C=CC=C1)Cl | C22H20ClN3O3S
